US06759420B1
b) 3-(4-Amino-phenyl)-2-(3-trifluoromethyl-phenyl)-propionic acid
3-(4-Nitro-phenyl)-2-(3-trifluoromethyl-phenyl)-acrylic acid (9.9 g, 29 mmol) was hydrogenated in methanol using palladium/charcoal (10%) as the catalyst in 13 hours. The catalyst was filtered off and the filtrate was evaporated to give 8.9 g of the desired product (98% yield). MS m/z: 310.2 (M+H)+.

reactant | 3-(4-Nitro-phenyl)-2-(3-trifluoromethyl-phenyl)-acrylic acid | 29 mmol, 9.9 g | [N+](=O)([O-])C1=CC=C(C=C1)C=C(C(=O)O)C1=CC(=CC=C1)C(F)(F)F | C16H10F3NO4
solvent | methanol | CO | CH4O
catalyst | palladium/charcoal | [Pd] | Pd
product | 3-(4-Amino-phenyl)-2-(3-trifluoromethyl-phenyl)-propionic acid | 8.9 g, 98% yield | NC1=CC=C(C=C1)CC(C(=O)O)C1=CC(=CC=C1)C(F)(F)F | C16H14F3NO2
